US04297516
4-Methyl-4-trimethylsilyloxy-7-oxa-1-octyne
To a solution of 13 g. (0.091 moles) of 4-hydroxy-4-methyl-7-oxa-1-octyne and 16 g. (0.235 moles) of imidazole in 80 ml. of dry dimethylformamide is added dropwise, at 5° C. under nitrogen with stirring, 12.5 ml. (0.115 moles) of trimethylchlorosilane. After an additional 15 minutes at 5° C. the solution is stirred at ambient temperature for 18 hours then added to 450 ml. of hexane. The resulting solution is washed with ice-cold water, ice-cold saturated sodium chloride solution, dried with anhydrous magnesium sulfate and taken to dryness in vacuo. Distillation of the residual oil furnishes 16.8 g. (86%) of product; b.p. 87°-88° C. (7 mm.).

reactant | 4-hydroxy-4-methyl-7-oxa-1-octyne | 0.091 moles | OC(CC#C)(CCOC)C | C8H14O2
reactant | imidazole | 0.235 moles | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | trimethylchlorosilane | 0.115 moles | C[Si](Cl)(C)C | C3H9ClSi
solvent | hexane | CCCCCC | C6H14
product | 4-Methyl-4-trimethylsilyloxy-7-oxa-1-octyne | CC(CC#C)(CCOC)O[Si](C)(C)C | C11H22O2Si
